US08202888B2
(2-Phenyl-piperidin-1-yl)-piperidin-3-yl-methanone
To a solution of 1 g 3-(2-phenyl-piperidine-1-carbonyl)-piperidine-1-carboxlic acid tert.-butyl ester in DCM (15 mL) was added 40% trifluoroacetic acid in DCM (6 mL). The mixture was stirred at room temperature for 4-5 h. After completion of the reaction all volatiles were evaporated, water (20 mL) was added and the mixture extracted with (2×25 mL) diethyl ether. The aqueous layer was adjusted with 10% aq. NaOH to pH=12, and extracted with ethyl acetate (2×25 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated under reduced pressure to yield 0.731 g (95%) of the title compound. (MH+) 273.36.

reactant | 3-(2-phenyl-piperidine-1-carbonyl)-piperidine-1-carboxlic acid tert.-butyl ester | 1 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)N1C(CCCC1)C1=CC=CC=C1 | C22H32N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (2-Phenyl-piperidin-1-yl)-piperidin-3-yl-methanone | 0.731 g, 95% | C1(=CC=CC=C1)C1N(CCCC1)C(=O)C1CNCCC1 | C17H24N2O
